* AD830J SPICE Macro-model                  5/93, Rev. A
*                                           JCB / PMI
*
* This version of the AD830 model simulates the worst case 
* parameters of the 'J' grade.  The worst case parameters
* used correspond to those in the data sheet.
*
* Copyright 1993 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with
* the terms and provisions in the License Statement.
*
* Node assignments
*                X1 input
*                |   X2 input
*                |   |   Y1 input
*                |   |   |   Y2 input
*                |   |   |   |   negative supply
*                |   |   |   |   |   output
*                |   |   |   |   |   |   positive supply
*                |   |   |   |   |   |   |
.SUBCKT AD830J   1   2   3   4   5   7   8
*
* X1-X2 INPUT STAGE
*
Q1   17  1   9   QX
Q2   18  11  10  QX
R1   9   12  1000
R2   10  12  1000
I1   12  5   2E-3
EOS1 2   11  POLY(1) (31,98)  3E-3  1
IOS1 1   2   5E-7
C1   1   2   2E-12
*
* Y1-Y2 INPUT STAGE
*
Q3   17  3   14  QX
Q4   18  13  15  QX
R3   14  16  1000
R4   15  16  1000
I2   16  5   2.02E-3
VOS2 4   13  3E-3
IOS2 3   4   5E-7
C2   3   4   2E-12
*
VC1  32  17  DC  0.4
VC2  33  18  DC  0.4
D7   8   32  DX
D8   8   33  DX
*
EREF 98  0   24  0  1
*
* TRANSCONDUCTANCE STAGE & DOMINANT POLE AT 25.3 KHZ
*
R7   19  98  1.58E6
C3   19  98  3.98E-12
F1   98  19  POLY(2)  VC1  VC2  0   1   -1
V2   8   20  3.6
V3   21  5   3.6
D1   19  20  DX
D2   21  19  DX
*
* POLE AT 250 MHZ
*
R6   22  98   1E6
C4   22  98   637E-18
G2   98  22   19  98  1E-6
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 160 KHZ
*
R10  30  31   316E3
R11  31  98   1
C7   30  31   3.18E-12
E3   98  30   POLY(2)  (1,98) (2,98)  0  5  5
*
* POLE AT 200 MHZ
*
R12  23 98   1E6
C8   23 98   796E-18
G4   98 23   22  98  1E-6
*
* OUTPUT STAGE
*
R13  24  8   500E3
R14  24  5   500E3
FSY  8   5   POLY(2) V7 V8 13E-3 1 1
R15  29  8   34
R16  29  5   34
L1   29  7   6E-10
G7   29  8   8  23  2.94E-2
G8   5  29   23  5  2.94E-2
V4   25 29   0.74
V5   29 26   0.74
D3   23 25   DX
D4   26 23   DX
G5   98 70   29 23 2.94E-2
D5   70 71   DX
D6   72 70   DX
V7   71 98   DC 0
V8   98 72   DC 0
*
* MODELS USED
*
.MODEL QX NPN(BF=105)
.MODEL DX   D(IS=1E-15)
.ENDS
