* AD8072jn SPICE Macro-model       rev B; 6/6/97,SMR,ADI
                                          

* Copyright 1997 by Analog Devices, Inc.

* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.

* This model will give typical performance characteristics
* for the following parameters;

*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is static, will not vary with vcm)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     vnoise, referred to the input
*     inoise, referred to the input

*     distortion is not characterized

* Node assignments
*                non-inverting input
*                |   inverting input
*                |   |   positive supply
*                |   |   |   negative supply
*                |   |   |   |   output
*                |   |   |   |   |
.SUBCKT AD8072jn 1   2   99  50  24   

* INPUT STAGE

v1   8 2 0
i1   99 5 108e-6
i2   4 50 108e-6
q1   50 3 5 qp1
q2   99 3 4 qn1
q3   99 5 8 qn2
q4   50 4 8 qp2

* input error sources
 
fn   99  2 vn4 1e-3
ib1  99  2     2.87e-6
ib2  99  3     4e-6
eos  3 1 poly(1) (32,98) 2e-3 1
cs3  98  2     1.6e-12
cs4  98  3     1.6e-12

* slew rate limiting stage

fl1 98 70 v1 1
dl1 70 98 dx
dl2 98 70 dx
dl3 70 72 dx
dl4 72 70 dx
vl1 72 73 0
rl1 73 98 27

* first gain stage and dominant pole

fgain 98 12 vl1 2
r5   12 98 300k
c4   12 98 1.7e-12
v3   99 13 2.54
v4   14 50 2.84
d3   12 13 dx
d4   14 12 dx

* v noise generator

vn1 30 98 0.555
dn1 30 31 dn1
rn1 31 98 1.84e-3
vn2 31 98 0 

fn1 32 98 vn2 1
rn2 32 98 1

* i noise generation

vn3 33 98 0.595
dn2 33 34 dn1
rn3 34 98 0.46e-3
vn4 34 98 0

fn2 35 98 vn4 1
rn4 35 98 1

* buffer stage

g13 98 17 12 98 1e-2 
rbuf 17 98 100

* reference stage

eref1 98 0 poly(2) 99 0 50 0 0 0.5 0.5 

* current mirroring on supplies

fo3 98 300 vo1 1
vi1 311 98 0
vi2 98 312 0
dm1 300 311 dx
dm2 312 300 dx

* output stage

r15 23 90  2
r16 23 91  2
vo1 23 24  0
vo2 99 90  0
vo3 91 50  0
fo1 0 99 poly(2) vo2 vi1 -6.67e-3 1 -1
fo2 50 0 poly(2) vo3 vi2 -6.67e-3 1 -1
rl  24 98  1e6
g11 23 90  99 17 0.5
g12 23 91  50 17 0.5
v5  23 19  -0.666
v6  20 23  -0.668
d5  19 17  dx
d6  17 20  dx

* models

.model qn1 npn(bf=1e3)
.model qp1 pnp(bf=1e3)
.model qn2 npn(bf=1e3)
.model qp2 pnp(bf=1e3)
.model dx  d()
.model dn1 d(af=1 kf=1e-10)
.ends ad8072jn
