* BAR80
* jjt 2/11/2000, utilising the existing BAR80 model.
*
*             Cathode 1
*             |   Anode 1
*             |   |   Cathode 2
*             |   |   |   Anode 2
*             |   |   |   |
.subckt BAR80 1   2   3   4
R1 1 3 1p
R2 2 4 1p
D1 2 1 D194
.MODEL D194 D(IS=185F RS=.30 N=1.305 BV=70 IBV=.1N
+ CJO=1.17P VJ=.12 M=.096 TT=125N)
.ends BAR80

* BA582 / BA592 / BAR80 / BAT18x Series Diode Model
* SIEMENS 40 Volt 125ns  Si-PIN-Switch  17-03-1996 Moschovis