*
* Diode Sim Model Produced by Altium Ltd
* Date:  24-Mar-2003
*
* Manufacturer: Philips
* Component Name: BAS116
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BAS116 10 30
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

* Subcircuit models
.MODEL DIDEAL D
+(
+  IS =  8.0584E-16
+  N =  1.0246
+  TT =  0.000001023
+  CJO =  1.9002E-12
+  VJ =  1.2722
+  M =  0.35193
+  BV =  113.3
+  IBV =  1.00E+01
+)

.MODEL DHIGH D
+(
+  IS =  0.000393706
+  N =  1.0246
+  RS =  0.05
+)

.MODEL DRECOMB D
+(
+  IS =  2.89544E-13
+  N =  1.961935314
+)

.ENDS BAS116








