*
* Diode Sim Model Produced by Altium Ltd
* Date:  24-Mar-2003
*
* Manufacturer: Philips
* Component Name: BAS45A
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BAS45A 10 30
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

* Subcircuit models
.MODEL DIDEAL D
+(
+  IS =  0.000000007
+  N =  2.2707
+  TT =  0.00000175
+  CJO =  2.9332E-12
+  VJ =  0.3905
+  M =  0.24677
+  BV =  225.36
+  IBV =  1.00E+01
+)

.MODEL DHIGH D
+(
+  IS =  19.51398659
+  N =  2.2707
+  RS =  0.001
+)

.MODEL DRECOMB D
+(
+  IS =  1E-09
+  N =  2.270765942
+)

.ENDS BAS45A








