*
* Diode Sim Model Produced by Altium Ltd
* Date:  19-Mar-2003
*
* Manufacturer: Philips
* Component Name: BAS32L
*
* This macromodel models the effect of high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BAS32L 10 30
D1 10 20 DIDEAL
D2 20 30 DHIGH

* Subcircuit models
.MODEL DIDEAL D
+(
+ IS =  2.227E-08
+ RS =  0.001
+ N =  2.203
+ TT =  4.328E-09
+ CJO =  1.035E-12
+ VJ =  0.75
+ M =  0.1
+ BV =  124.1
+ IBV =  0.007607
+)

.MODEL DHIGH D
+(
+ IS =  0.017653922
+ N =  2.203
+)

.ENDS BAS32L






