*
.SUBCKT BAT760 1 2
*
* The resistor R1 does not reflect
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
R1 1 2 2E+06
D1 1 2 DBAT760
*
.MODEL DBAT760 D
+(
+ IS = 1.686E-06
+ N = 1.015
+ BV = 21
+ IBV = 1E-06
+ RS = 0.1249
+ CJO = 9.086E-11
+ VJ = 0.1939
+ M = 0.4542
+ FC = 1
+ TT = 0
+ EG = 0.69
+ XTI = 2
+)
.ENDS